US06780855B2
A solution of 381 mg of 11β-fluoro-3-hydroxy-7α-[6-(methyl-amino)-hexyl)-estra-1,3,5(10)-trien-17-one in 5 ml of dimethylformamide is stirred with 180 mg of 9,9,10,10,10-pentafluoro-decyltosylate for 2 hours at a bath temperature of 100° C. Then, it is added to semi-saturated sodium bicarbonate solution, extracted three times with methylene chloride, dried on magnesium sulfate, concentrated by evaporation in a vacuum and chromatographed on silica gel with dichloromethane/methanol/triethylamine. 121 mg of 11β-fluoro-3-hydroxy-7α-{6-[methyl-(9,9,10,10,10-pentafluoro-decyl)-amino]-hexyl}-estra-1,3,5(10)-trien-17-one is obtained as a foam, [α]D=+59° (c=1.0 in chloroform).

reactant | 11β-fluoro-3-hydroxy-7α-[6-(methyl-amino)-hexyl)-estra-1,3,5(10)-trien-17-one | 381 mg | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)CCCCCCNC)O | C25H36FNO2
reactant | 9,9,10,10,10-pentafluoro-decyltosylate | 180 mg | FC(CCCCCCCCC1=C(S(=O)(=O)[O-])C=CC(=C1)C)(C(F)(F)F)F
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 11β-fluoro-3-hydroxy-7α-{6-[methyl-(9,9,10,10,10-pentafluoro-decyl)-amino]-hexyl}-estra-1,3,5(10)-trien-17-one | 121 mg | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)CCCCCCN(CCCCCCCCC(C(F)(F)F)(F)F)C)O | C35H51F6NO2
